US04555262
A solution of 1 g of sodium nitrite in 4 ml of water is slowly added dropwise at 0°-5° C. to a mixture of 3.4 g of N-(2-aminophenylsulfonyl)-N'-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)urea, 10 g of ice and 4 ml of 36% hydrochloric acid. After the reaction mixture has been stirred for 2 hours at 0° C., a solution of 1 g of sodium azide in 4 ml of water is added dropwise and the temperature is allowed to rise to 20° C. The reaction mixture is extracted with three 20 ml portions of methylene chloride. The combined organic phases are dried and concentrated. Recrystallisation of the residue yields 1.0 g of N-(2-azidophenylsulfonyl)-N'-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)urea which decomposes at 175° C.

reactant | sodium nitrite | 1 g | N(=O)[O-].[Na+]
reactant | N-(2-aminophenylsulfonyl)-N'-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)urea | 3.4 g | NC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=NC(=N1)OC)C | C12H14N6O4S
reactant | hydrochloric acid | 4 ml | Cl | ClH
reactant | sodium azide | 1 g | [N-]=[N+]=[N-].[Na+]
solvent | water | 4 ml | O | H2O
solvent | water | 4 ml | O | H2O
product | N-(2-azidophenylsulfonyl)-N'-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)urea | 1.0 g | N(=[N+]=[N-])C1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=NC(=N1)OC)C | C12H12N8O4S
